US08314094B2
1) 6-bromo-1-(4-methoxybenzyl)-3-methyl-4-(nitromethyl)-4-(trifluoromethyl)-3,4-dihydroquinazolin-2(1H)-one
6-Bromo-1-(4-methoxybenzyl)-4-(nitromethyl)-4-(trifluoromethyl)-3,4-dihydroquinazolin-2(1H)-one (192.1 mg, 0.405 mmol) was dissolved in DMF (2.0 mL), and sodium hydride (40.5 mg, 1.013 mmol) and methyl iodide (76 μL, 215 mmol)were sequentially added to the reaction solution at room temperature. The reaction solution was stirred overnight at 50° C. and then cooled to room temperature. Ethyl acetate and water were added thereto and the solution was stirred at room temperature for 10 minutes. The organic layer was separated and washed with saturated brine and then dried over magnesium sulfate. After the drying agent was removed by filtration, the solvent was evaporated under reduced pressure. The residue was purified by thin-layer chromatography (ethyl acetate/hexane), whereby the objective 6-bromo-1-(4-methoxybenzyl)-3-methyl-4-(nitromethyl)-4-(trifluoromethyl)-3,4-dihydroquinazolin-2(1H)-one (44.3 mg, 22.4%) was obtained as a white solid.

reactant | 6-Bromo-1-(4-methoxybenzyl)-4-(nitromethyl)-4-(trifluoromethyl)-3,4-dihydroquinazolin-2(1H)-one | 0.405 mmol, 192.1 mg | BrC=1C=C2C(NC(N(C2=CC1)CC1=CC=C(C=C1)OC)=O)(C(F)(F)F)C[N+](=O)[O-] | C18H15BrF3N3O4
reactant | sodium hydride | 1.013 mmol, 40.5 mg | [H-].[Na+]
reactant | methyl iodide | 215 mmol, 76 μL | CI | CH3I
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 6-bromo-1-(4-methoxybenzyl)-3-methyl-4-(nitromethyl)-4-(trifluoromethyl)-3,4-dihydroquinazolin-2(1H)-one | BrC=1C=C2C(N(C(N(C2=CC1)CC1=CC=C(C=C1)OC)=O)C)(C(F)(F)F)C[N+](=O)[O-] | C19H17BrF3N3O4
